US07655666B2
To a solution of 2-isocyanato-5-nitro-4-trifluoromethyl-benzoic acid methyl ester (110 mg, 0.379 mmol) in dry THF (1.7 mL) was added a solution of CH3SO2NHNH2 (41.7 mg, 0.379 mmol) in dry THF (0.6 mL) at r.t. The resultant mixture turned into a white suspension that was stirred for one hour. A 1 M aq NaOH solution (0.379 mL) was added and stirring of the clear solution was continued for 4 h. After addition of 2 M HCl solution (0.472 mL) and evaporation of the THF, the precipitate was filtered and dried at 50° C./0.1 mm yielding N-(6-nitro-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (114 mg, 81%) as a slightly yellow powder, m.p. 220-232° C. (decomp.). 1H-NMR (DMSO-d6, 400 MHz): 3.15 (s, 3H), 7.66 (s, 1H), 8.62 (s, 1H), 10.50 (s, 1H), 12.41 (s, 1H).

reactant | 2-isocyanato-5-nitro-4-trifluoromethyl-benzoic acid methyl ester | 0.379 mmol, 110 mg | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])C(F)(F)F)N=C=O)=O | C10H5F3N2O5
reactant | CH3SO2NHNH2 | 0.379 mmol, 41.7 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | NaOH | 1 M, 0.379 mL | [OH-].[Na+]
reactant | HCl | 2 M, 0.472 mL | Cl | ClH
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
product | N-(6-nitro-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 114 mg, 81% | [N+](=O)([O-])C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C10H7F3N4O6S
